US04695569
A mixture of 18 parts of N-(4-amino-3-pyridinyl)-N'-[4-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]butyl]thiourea, 7 parts of mercury(II)oxide, 1 part of sulfur and 180 parts of tetrahydrofuran was stirred and refluxed for 5 hours. The reaction mixture was filtered hot over Hyflo and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol saturated with ammonia, (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of tetrahydrofuran and trichloromethane, yielding 5 parts (29%) of N-[4-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]butyl]-1H-imidazo[4,5-c]pyridin-2-amine; mp. 228.2° C. (compound 121).

reactant | N-(4-amino-3-pyridinyl)-N'-[4-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]butyl]thiourea | NC1=C(C=NC=C1)NC(=S)NCCCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C29H35FN8S
reactant | sulfur | [S] | S
catalyst | mercury(II)oxide | [Hg]=O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[4-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]butyl]-1H-imidazo[4,5-c]pyridin-2-amine | 29% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCCCNC=2NC1=C(C=NC=C1)N2 | C29H33FN8
